US06429214B1
3-(6-Hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-propionic acid ethyl ester
Using the conditions of Example 73 and 3-(6-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-propionic acid ethyl ester in place of (7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)acetic acid methyl ester and in the presence of ethyl alcohol the title compound was prepared.

reactant | 3-(6-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-propionic acid ethyl ester | C(C)OC(CCC1C(NC2=CC=C(C=C2C1)OC)=O)=O | C15H19NO4
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(6-Hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-propionic acid ethyl ester | C(C)OC(CCC1C(NC2=CC=C(C=C2C1)O)=O)=O | C14H17NO4
